US09035059B2
Pyridine (6.56 mL, 81.1 mmol) and dimethylaminopyridine (248 mg, 2.03 mmol) were added to a solution of isoindoline (8.08 g, 40.6 mmol) in chloroform (120 mL) at room temperature and the mixture was cooled in ice. Trifluoroacetic acid anhydride (6.77 mL, 48.7 mmol) was added dropwise thereto and the reaction mixture was warmed to room temperature and stirred for 4 hr. The reaction mixture was concentrated under reduced pressure and the residue was diluted with ethyl acetate. The mixture was washed with 1 mol/L hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution and brine. The organic layer was dried over anhydrous magnesium sulfate and then the desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to afford 1-(1,3-dihydro-2 H-isoindol-2-yl)-2,2,2-trifluoroethanone as a brownish red powder (8.66 g).

reactant | Pyridine | 81.1 mmol, 6.56 mL | N1=CC=CC=C1 | C5H5N
reactant | isoindoline | 40.6 mmol, 8.08 g | C1NCC2=CC=CC=C12 | C8H9N
reactant | Trifluoroacetic acid anhydride | 48.7 mmol, 6.77 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | chloroform | 120 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | dimethylaminopyridine | 2.03 mmol, 248 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | 1-(1,3-dihydro-2 H-isoindol-2-yl)-2,2,2-trifluoroethanone | 8.66 g | C1N(CC2=CC=CC=C12)C(C(F)(F)F)=O | C10H8F3NO
